US05756505
1-(4-benzyloxy-3-isobutylbenzoyl)-4-isobutylpiperazine
4-benzyloxy-3-isobutylbenzoic acid (4.94 g) was dissolved in a mixture of chloroform (60 ml) and triethylamine (4.83 ml). To this mixture, diphenylphosphinic chloride (3.66 ml) was added while being cooled with ice. After being stirred for 40 minutes, the mixture, with 1-isobutylpiperazine (2.48 g) added thereto, was stirred for 1.5 hours at room temperature. The reaction mixture was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. Thus obtained residue was purified by silica gel column chromatography (chloroform: methanol=50:1), thereby yielding 7.11 g of the aimed compound.

reactant | 4-benzyloxy-3-isobutylbenzoic acid | 4.94 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)CC(C)C | C18H20O3
reactant | diphenylphosphinic chloride | 3.66 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 1-isobutylpiperazine | 2.48 g | C(C(C)C)N1CCNCC1 | C8H18N2
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 4.83 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-benzyloxy-3-isobutylbenzoyl)-4-isobutylpiperazine | 7.11 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)N2CCN(CC2)CC(C)C)C=C1)CC(C)C | C26H36N2O2
